US04429146
Dimethylsulfamoyl chloride (7.2 g, 0.05 mole) was added dropwise to a solution of 2-hydroxyethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate (10 g, 0.025 mole), triethylamine (10 ml) and ethyl ether (200 ml). The mixture was heated to and held at reflux for 5 hrs., cooled, added 200 ml of ether and washed three times with water. The ethereal solution was dried over MgSO4, concentrated to 13.9 g of yellow gum. The gummy material was run through a silica gel with 30% acetone-70% cyclohexane as eluent to afford 3.0 g of pure 2-(N,N-dimethylsulfamoyloxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate as colorless gum; nmr (CDCl3) 2.96 (S, 6H), 3.84 (m, 2H), 4.52 (m, 2H), 6.88-8.24 (m, 6H).

reactant | Dimethylsulfamoyl chloride | 0.05 mole, 7.2 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 2-hydroxyethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 0.025 mole, 10 g | ClC1=C(OC=2C=CC(=C(C(=O)OCCO)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C16H11ClF3NO6
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-(N,N-dimethylsulfamoyloxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 3.0 g | ClC1=C(OC=2C=CC(=C(C(=O)OCCOS(N(C)C)(=O)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C18H16ClF3N2O8S
